US08207208B2
Step A: (diethoxyphosphoryl)methyl 2-butyl-4-chloro-1-{[2′-(1-trityl-1H-tetrazol-5-yl)biphenyl-4-yl]methyl}-1H-imidazole-5-carboxylate
The title compound was prepared by following example 7, except that the reagent 2-butyl-4-chloro-1-{[2′-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl}-1H-imidazole-5-carboxylic acid was replaced by 2-butyl-4-chloro-1-{[2′-(1-trityl-1H-tetrazol-5-yl)biphenyl-4-yl]methyl}-1H-imidazole-5-carboxylic acid, and isosorbide-5-mononitrate was replaced by diethyl (hydroxymethyl)phosphonate. 1H NMR (500 MHz, CDCl3) δ 7.94 (d, J=7.4 Hz, 1H), 7.52 (td, J=7.1, 1.3 Hz, 1H), 7.48 (t, J=7.7 Hz, 1H), 7.39-7.34 (m, 4H), 7.28 (t, J=7.8 Hz, 6H), 7.13 (d, J=8.3 Hz, 2H), 6.95 (d, J=8.1 Hz, 6H), 6.80 (d, J=8.1 Hz, 2H), 5.47 (s, 2H), 4.49 (d, J=8.4 Hz, 2H), 4.24-4.16 (m, 4H), 2.53 (t, J=7.8 Hz, 2H), 1.67 (quintet, J=7.7 Hz, 2H), 1.33 (t, J=7.0 Hz, 6H), 1.30 (sextet, J=7.4 Hz, 2H), 0.88 (t, J=7.4 Hz, 3H).

reactant | 2-butyl-4-chloro-1-{[2′-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl}-1H-imidazole-5-carboxylic acid | C(CCC)C=1N(C(=C(N1)Cl)C(=O)O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1 | C22H21ClN6O2
reactant | 2-butyl-4-chloro-1-{[2′-(1-trityl-1H-tetrazol-5-yl)biphenyl-4-yl]methyl}-1H-imidazole-5-carboxylic acid | C(CCC)C=1N(C(=C(N1)Cl)C(=O)O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C41H35ClN6O2
reactant | isosorbide-5-mononitrate | C1[C@@H]([C@@H]2[C@H](O1)[C@@H](CO2)O[N+](=O)[O-])O | C6H9NO6
reactant | diethyl (hydroxymethyl)phosphonate | OCP(OCC)(OCC)=O | C5H13O4P
product | (diethoxyphosphoryl)methyl 2-butyl-4-chloro-1-{[2′-(1-trityl-1H-tetrazol-5-yl)biphenyl-4-yl]methyl}-1H-imidazole-5-carboxylate | C(CCC)C=1N(C(=C(N1)Cl)C(=O)OCP(=O)(OCC)OCC)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C46H46ClN6O5P
